US07851626B2
2-{4-[(4S,5R)-1-[4-(1-Acetyl-piperidin-4-yl)-piperazine-1-carbonyl]-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxy-phenyl}-2-methyl-propionitrile
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-(4-piperazin-1-yl-piperidin-1-yl)-ethanone trifluoroacetate to give the title compound as a racemic mixture. The enantiomers were then separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 35% methanol in carbon dioxide). LR-MS: 743.4 [(M+H)+]

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(C)(C)C#N)OCC)C | C30H28Cl3N3O2
reactant | 1-(4-piperazin-1-yl-piperidin-1-yl)-ethanone trifluoroacetate | FC(C(=O)O)(F)F.N1(CCNCC1)C1CCN(CC1)C(C)=O
product | 2-{4-[(4S,5R)-1-[4-(1-Acetyl-piperidin-4-yl)-piperazine-1-carbonyl]-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxy-phenyl}-2-methyl-propionitrile | C(C)(=O)N1CCC(CC1)N1CCN(CC1)C(=O)N1C(=N[C@@]([C@@]1(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)C(C#N)(C)C)OCC | C41H48Cl2N6O3
